US05834463
(3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride
In ethanol was suspended (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one produced in Working Example 26. To the suspension was added an HCl-ethanol solution, and the mixture was stirred. Resulting crystalline precipitate was collected by filtration, which was washed with ethanol to give the titled compound, m.p. 167°-170° C.

reactant | (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | [N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | C19H19N3O3
reactant | HCl ethanol | Cl.C(C)O
solvent | ethanol | C(C)O | C2H6O
product | (3aR*,10aS*)-9-(4-Nitrobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(CN2C3=C(N[C@H]4[C@@H](C2=O)CCC4)C=CC=C3)C=C1 | InChI=1S/C19H19N3O3.ClH/c23-19-15-4-3-6-16(15)20-17-5-1-2-7-18(17)21(19)12-13-8-10-14(11-9-13)22(24)25;/h1-2,5,7-11,15-16,20H,3-4,6,12H2;1H/t15-,16+;/m0./s1
